US07232834B2
A mixture of 0.43 g of methyl (3R,4R)-4-[3-oxo-3-(6-methoxyquinolin-4-yl)propyl]-1-[2-(2-thienylsulfanyl)-ethyl]piperidine-3-carboxylate in 5 cm3 of 5N hydrochloric acid is brought to a temperature in the region of 80° C. with stirring and under an inert atmosphere for 5 hours. After cooling to around 20° C., the reaction medium is neutralized with 4.7 cm3 of 5N sodium hydroxide until a pH of 6 is obtained, and is then extracted with 30 cm3 of dichloromethane. The organic phase is dried over magnesium sulfate, filtered, and then evaporated to dryness under reduced pressure (2 kPa) at a temperature in the region of 30° C. The residue obtained is purified by chromatography on a column of silica gel (particle size 70–200 μm; diameter 2 cm), eluting with a mixture of chloroformmethanol-aqueous ammonia (28%) (12/3/0.5 by volume) and collecting fractions of 10 cm3. The fractions containing the expected product are pooled and then evaporated according to the conditions described above. 0.4 g of (3R,4R)-4-[3-oxo-3-(6-methoxyquinolin-4-yl)propyl]-1-[2-(2-thienylsulfanyl)ethyl]piperidine-3-carboxylic acid, in the form of a yellow-colored oil, is obtained.

reactant | methyl (3R,4R)-4-[3-oxo-3-(6-methoxyquinolin-4-yl)propyl]-1-[2-(2-thienylsulfanyl)-ethyl]piperidine-3-carboxylate | 0.43 g | O=C(CC[C@H]1[C@H](CN(CC1)CCSC=1SC=CC1)C(=O)OC)C1=CC=NC2=CC=C(C=C12)OC | C26H30N2O4S2
reactant | sodium hydroxide | 5N, 4.7 cm3 | [OH-].[Na+]
solvent | hydrochloric acid | 5N, 5 cm3 | Cl | ClH
product | (3R,4R)-4-[3-oxo-3-(6-methoxyquinolin-4-yl)propyl]-1-[2-(2-thienylsulfanyl)ethyl]piperidine-3-carboxylic acid | 0.4 g | O=C(CC[C@H]1[C@H](CN(CC1)CCSC=1SC=CC1)C(=O)O)C1=CC=NC2=CC=C(C=C12)OC | C25H28N2O4S2
